US07723347B2
2-Fluoro-N1-(1-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine
195 mg (0.68 mmol) of N-(2-fluoro-4-nitrophenyl)-1-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine are dissolved in 10 ml of a mixture of ethanol/THF. (1:1). 15 mg (0.07 mmol) of platinum(IV) oxide are added, and the mixture is stirred under a hydrogen atmosphere at atmospheric pressure overnight. The suspension is then filtered through Celite, the Celite is washed with a little ethanol and the solvent is removed under reduced pressure.

reactant | N-(2-fluoro-4-nitrophenyl)-1-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine | 0.68 mmol, 195 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)N(C=C2)C | C14H11FN4O2
solvent | ethanol THF | C(C)O.C1CCOC1
catalyst | platinum(IV) oxide | 0.07 mmol, 15 mg | [Pt](=O)=O
product | 2-Fluoro-N1-(1-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | FC1=C(C=CC(=C1)N)NC1=C2C(=NC=C1)N(C=C2)C | C14H13FN4
